CIRCUIT D:\dc\ADVD\Half Adder 2.MSK
*
* IC Technology: CMOS 0.12µm - 6 Metal
*
VDD 1 0 DC 1.20
VB 4 0 PULSE(0.00 1.20 0.50N 0.03N 0.03N 0.50N 1.05N)
V~B 6 0 PULSE(1.20 0.00 0.50N 0.03N 0.03N 0.50N 1.05N)
VA 7 0 PULSE(0.00 1.20 0.50N 0.03N 0.03N 0.50N 1.05N)
V~A 8 0 PULSE(1.20 0.00 0.50N 0.03N 0.03N 0.50N 1.05N)
*
* List of nodes
* "GND" corresponds to n°2
* "C" corresponds to n°3
* "B" corresponds to n°4
* "S" corresponds to n°5
* "~B" corresponds to n°6
* "A" corresponds to n°7
* "~A" corresponds to n°8
*
* MOS devices
MN1 5 7 6 0 N1  W= 4.20U L= 0.18U
MN2 5 8 4 0 N1  W= 4.20U L= 0.18U
MN3 3 7 4 0 N1  W= 4.20U L= 0.18U
MN4 3 8 0 0 N1  W= 4.20U L= 0.18U
*
C3 3 0  2.437fF
C4 4 0  2.554fF
C5 5 0  2.429fF
C6 6 0  1.127fF
C7 7 0  1.961fF
C8 8 0  1.326fF
*
* Extra RLC
*
Cadd1 5 0 0.5pF
Cadd2 3 0 0.5pF
*
* n-MOS Model 3 :
* low leakage
.MODEL N1 NMOS LEVEL=3 VTO=0.40 UO=600.000 TOX= 2.0E-9
+LD =0.000U THETA=0.500 GAMMA=0.400
+PHI=0.200 KAPPA=0.060 VMAX=120.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* Transient analysis
*
.TEMP 27.0
.TRAN 0.1N 5.00N
* (Pspice)
.PROBE
.END
