CIRCUIT C:\Users\rbksh\Desktop\BITS\3-1\ADVD\Digital Project\Half Adder.MSK
*
* IC Technology: C:\Users\rbksh\Desktop\BITS\3-1\ADVD\Digital Project\drclvs_rsf\DRC.header
*
VDD 1 0 DC 1.20
VB 2 0 PULSE(1.80 0.00 1.00N 0.03N 0.02N 1.00N 2.05N)
V~B 6 0 PULSE(0.00 1.80 1.00N 0.03N 0.02N 1.00N 2.05N)
V~A 7 0 PULSE(1.80 0.00 1.00N 0.03N 0.02N 1.00N 2.05N)
VA 8 0 PULSE(0.00 1.80 1.00N 0.03N 0.02N 1.00N 2.05N)
*
* List of nodes
* "B" corresponds to n°2
* "S" corresponds to n°3
* "GND" corresponds to n°4
* "C" corresponds to n°5
* "~B" corresponds to n°6
* "~A" corresponds to n°7
* "A" corresponds to n°8
*
* MOS devices
MN1 5 8 2 0 N1  W= 5.00U L= 1.00U
MN2 3 8 6 0 N1  W= 5.00U L= 1.00U
MN3 5 7 0 0 N1  W= 5.00U L= 1.00U
MN4 3 7 2 0 N1  W= 5.00U L= 1.00U
*
*
* Extra RLC
*
Cadd1 3 0 0.5pF
Cadd2 5 0 0.5pF
*
* n-MOS Model 3 :
* Standard
.MODEL N1 NMOS LEVEL=3 VTO=0.40 UO=600.000 TOX= 2.0E-9
+LD =0.000U THETA=0.500 GAMMA=0.400
+PHI=0.200 KAPPA=0.060 VMAX=120.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* Transient analysis
*
.TEMP 27.0
.TRAN 0.1N 5.00N
* (Pspice)
.PROBE
.END
